.subckt memristor pl mn x PARAMS: Ron=2K Roff=200K Rinit=2K alpha=0 beta=1E8 Vt=1.6
Bx 0 x I='(f1(V(pl,mn))>0) && (V(x)<Roff) ? {f1(V(pl,mn))}: (f1(V(pl,mn))<0) && (V(x)>Ron) ? {f1(V(pl,mn))}: {0}'
Cx x 0 1 IC={Rinit}

Rmem pl mn r={V(x)}
d1 aux1 x
d2 x aux2
v1 aux1 0 {Ron}
v2 aux2 0 {Roff}
Raux pl mn 1e12 
.func f1(y)={beta*y+0.5*(alpha-beta)*(abs(y+Vt)-abs(y-Vt))}
.ends
